US05792786
Preparation of Ibuprofen-Ala-Tris
Ala-Tris (2.77 g, 14.5 mmole) dissolved in DMF (10 ml) was added to the reaction mixture and stirring continued at room temperature for 4 h. The title compound was formed in 70% yield by HPLC. RtA : 5.43. The solvents were removed under reduced pressure and the oily residue dissolved in DCM and washed with citric acid (4%), sodium bicarbonate (5%) and water. The DCM was dried (MgSO4) and evaporated to dryness, to obtain 5.4 g of an oily compound. The oily residue was a 50/50 racemized mixture which was identified by its 1HNMR spectrum. The doublet peak of methyl proton of alanine and ibuprofen of the diasteroisomers shifted away about 6 Hz from each other.

reactant | Ala Tris | 14.5 mmole, 2.77 g | N[C@@H](C)C(=O)O.C(C(CO)(CO)N)O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Ibuprofen Ala Tris | 70% yield | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1.N[C@@H](C)C(=O)O.C(C(CO)(CO)N)O | InChI=1S/C13H18O2.C4H11NO3.C3H7NO2/c1-9(2)8-11-4-6-12(7-5-11)10(3)13(14)15;5-4(1-6,2-7)3-8;1-2(4)3(5)6/h4-7,9-10H,8H2,1-3H3,(H,14,15);6-8H,1-3,5H2;2H,4H2,1H3,(H,5,6)/t;;2-/m..0/s1
